US06048868
Sodium bicarbonate (500 mg) and 10% palladium-on-charcoal are added to a solution of cyclopropyl (6-methoxy-1-methylene-2,3,4,9-tetrahydro-1H-β-carbolin-2-yl)-methanone (500 mg) in ethyl acetate (150 mL). The mixture is stirred overnight under a hydrogen atmosphere. After filtration and washing of the palladium with a chloroform/methanol solution, the product is recrystallized from ethyl acetate and the cyclopropyl(6-methoxy-1-methyl-2,3,4,9-tetrahydro- 1H-β-carbolin-2-yl)methanone is obtained (72% yield).

reactant | Sodium bicarbonate | 500 mg | C([O-])(O)=O.[Na+]
reactant | cyclopropyl (6-methoxy-1-methylene-2,3,4,9-tetrahydro-1H-β-carbolin-2-yl)-methanone | 500 mg | C1(CC1)C(=O)N1C(C=2NC3=CC=C(C=C3C2CC1)OC)=C | C17H18N2O2
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-charcoal | [Pd] | Pd
product | cyclopropyl(6-methoxy-1-methyl-2,3,4,9-tetrahydro- 1H-β-carbolin-2-yl)methanone | 72% yield | C1(CC1)C(=O)N1C(C=2NC3=CC=C(C=C3C2CC1)OC)C | C17H20N2O2
